US04071524
To a cooled (15°-20° C.) solution of 67.6 g. (0.684 mole) of phosgene in 250 ml. of toluene is added dropwise over one hour a solution of 49.5 g. (0.171 mole) of 2,5-bis-(2,2,2-trifluoroethoxy)aniline in 350 ml. of toluene. After addition is complete, stirring is continued for 30 minutes, then the mixture is heated to its reflux temperature and maintained at reflux for 30 minutes. The solution is evaporated to provide a liquid residue which gradually crystallizes. The solid is recrystallized from heptane to provide 2,5-bis(2,2,2-trifluoroethoxy)phenyl isocyanate as a white solid, m.p. 50°-52° C.

reactant | phosgene | 0.684 mole | C(=O)(Cl)Cl | CCl2O
reactant | 2,5-bis-(2,2,2-trifluoroethoxy)aniline | 0.171 mole | FC(COC1=C(N)C=C(C=C1)OCC(F)(F)F)(F)F | C10H9F6NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-bis(2,2,2-trifluoroethoxy)phenyl isocyanate | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)N=C=O)(F)F | C11H7F6NO3
